US07495007B2
Preparation of intermediate 3-chloro-2H-pyridine-1-carboxylic acid phenyl ester
To a solution of 3-chloro-pyridine (6.0 g, 53 mmol) in methanol (50 mL) was added NaBH4 (2.6 g, 69 mmol) at −78° C., following addition of phenyl chloroformate (8.3 g, 53 mmol) at same temperature. The mixture was stirred at r.t. for 0.5 h. Then water (200 mL) was added slowly into the solution. The precipitate was collected by filtration to give crude product (Yield: 8.2 g, 67%).

reactant | 3-chloro-pyridine | 53 mmol, 6.0 g | ClC=1C=NC=CC1 | C5H4ClN
reactant | NaBH4 | 69 mmol, 2.6 g | [BH4-].[Na+]
reactant | phenyl chloroformate | 53 mmol, 8.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 200 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 3-chloro-2H-pyridine-1-carboxylic acid phenyl ester | Yield: 8.2 g, 67% | C1(=CC=CC=C1)OC(=O)N1CC(=CC=C1)Cl | C12H10ClNO2
